US08791132B2
6-(2-Azido-2-pyridin-4-yl-ethyl)-9-methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6-diaza-cyclopenta[c]fluorene (400 mg, 1.07 mmol) was dissolved in ethanol-water (10 mL:1 mL). Zinc dust (280 mg, 4.3 mmol) and ammonium chloride (228 mg, 4.3 mmol) were added and the reaction mixture was heated at 80° C. for 1 h. After consumption of starting material, the reaction mixture was filtered through Celite and filtrate was concentrated to obtain the residue. The residue was basified with aq ammonia and extracted with EtOAc (2×100 mL). The combined organic layer was dried over anhydrous sodium sulfate and concentrated to obtain the crude product, which was purified by reverse phase chromatography to obtain 40 mg of 2-(9-methyl-1,2,3,4,5,10c-hexahydro-3a,6-diaza-cyclopenta[c]fluoren-6-yl)-1-pyridin-4-yl-ethylamine as the TFA salt. 1H NMR (CDCl3, freebase): δ (ppm): 8.58 (d, 2H), 7.28 (d, 1H), 7.25 (s, 1H), 7.23 (d, 2H), 7.1 (d, 1H), 4.9 (m, 1H), 4.42 (t, 1H), 4.13 (dd, 1H), 3.63 (m, 1H), 3.4 (m, 2H), 3.01 (m, 2H), 2.71 (m, 2H), 2.45 (s, 3H), 2.23 (m, 2H), 2.01 (m, 1H). Chiral HPLC separated the racemate into diastereomers II-4a-d.

reactant | 6-(2-Azido-2-pyridin-4-yl-ethyl)-9-methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6-diaza-cyclopenta[c]fluorene | 1.07 mmol, 400 mg | N(=[N+]=[N-])C(CN1C=2C=CC(=CC2C=2C3N(CCC12)CCC3)C)C3=CC=NC=C3 | C22H24N6
reactant | ammonium chloride | 4.3 mmol, 228 mg | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol water | 10 mL | C(C)O.O
catalyst | Zinc | 4.3 mmol, 280 mg | [Zn] | Zn
product | 2-(9-methyl-1,2,3,4,5,10c-hexahydro-3a,6-diaza-cyclopenta[c]fluoren-6-yl)-1-pyridin-4-yl-ethylamine | 40 mg | CC1=CC=2C=3C4N(CCC3N(C2C=C1)CC(C1=CC=NC=C1)N)CCC4 | C22H26N4
